US06906103B2
1-(3-Methyl-butyl)-4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester (1.44 g) was dissolved in 50 ml of methanol and 25 ml of 20% aqueous NaOH was added. The reaction mixture was stirred at 50° C. for 1.5 h until there was no starting material checked by TLC. The reaction mixture was concentrated to about 20 ml, 200 ml of water was added. The resulting solution was neutralized with 5 M hydrochloric acid to pH 2 and the precipitates formed were collected by filtration, washed with water and dried to give 1-(3-methyl-butyl)-4-nitro-1H-pyrrole-2-carboxylic acid (1.29 g, 99%). 1H NMR (DMSO-d6) δ13.12 (br. s, 1H), 8.27 (d, 1H), 7.26 (d, 1H), 4.36 (t, 2H), 1.59 (dd, 2H), 1.50 (dt, 11H), 0.88 (d, 6H).

reactant | 1-(3-Methyl-butyl)-4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester | 1.44 g | C(C)OC(=O)C=1N(C=C(C1)[N+](=O)[O-])CCC(C)C | C12H18N2O4
reactant | NaOH | 25 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(3-methyl-butyl)-4-nitro-1H-pyrrole-2-carboxylic acid | 1.29 g, 99% | CC(CCN1C(=CC(=C1)[N+](=O)[O-])C(=O)O)C | C10H14N2O4
